US05002361
A. 4-(N-2-hydroxyethyl-N-ethylamino)benzaldehyde
To a three neck flask fitted with a mechanical stirrer, a thermometer, and a condenser, is added 124 g (1 mole) of 4-fluorobenzaldehyde, 89.1 g (1 mole) of 2-(N-ethylamino)ethanol, 138.2 g (1 mole) of anhydrous potassium carbonate, and dimethylsulfoxide. The mixture is heated at 95° C. for 3 hours. After cooling to room temperature, the solution is poured into a four-fold excess of ice water, and the solid product is collected by filtration and recrystallized from water.

reactant | 4-fluorobenzaldehyde | 1 mole, 124 g | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | 2-(N-ethylamino)ethanol | 1 mole, 89.1 g | C(C)NCCO | C4H11NO
reactant | potassium carbonate | 1 mole, 138.2 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylsulfoxide | CS(=O)C | C2H6OS
product | 4-(N-2-hydroxyethyl-N-ethylamino)benzaldehyde | OCCN(CC)C1=CC=C(C=O)C=C1 | C11H15NO2
